US07238724B2
1-methoxymethyl-cyclopentylamine
To a solution of (1-methoxymethyl-cyclopentyl)-carbamic acid benzyl ester (150 mg, 0.57 mmol) in MeOH (5 mL) was added HCO2NH4 (216 mg, 3.42 mmol), followed by Pd/C (10%, 6 mg, 0.057 mmol). The resulting mixture was heated, to 70° C., for 2 hours. The reaction mixture was filtered and concentrated to provide the titled compound. MS (DCI) m/e 130 (M+H)+.

reactant | (1-methoxymethyl-cyclopentyl)-carbamic acid benzyl ester | 0.57 mmol, 150 mg | C(C1=CC=CC=C1)OC(NC1(CCCC1)COC)=O | C15H21NO3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 0.057 mmol, 6 mg | [Pd] | Pd
product | 1-methoxymethyl-cyclopentylamine | COCC1(CCCC1)N | C7H15NO
